US05958942
iv) Synthesis of 4,5-dihydro-4[3-(trifluoromethane-sulfonamido)propan-1-yl]-3H-1,4,8b-triaza-acenaphthylene-3-one
To a solution of 1.16 g (2.00 mmol) of 3-trichloroacetyl-5-[N-tert-butoxycarbonyl-N-[3-(trifluoromethanesulfonamido)propan-1-yl]aminomethyl]imidazo[1,2-a]pyridine in 25 ml of chloroform was added dropwise 0.57 ml (4.00 mmol) of iodotrimethylsilane at room temperature. The reaction mixture was stirred for 15 minutes, which was then poured into ice-water, followed by neutralization with a saturated aqueous solution of sodium hydrogencarbonate. This solution was extractedith 150 ml of ethyl acetate. The organic layer was washed with 100 ml of a 1.0N aqueous solution of sodium thiosulfate, then with 100 ml of a saturated aqueous saline solution. The organic layer was dried over magnesium sulfate, followed by distilling off the solvent under reduced pressure. The residue was purified by silicagel column chromatography (eluent: chloroform/methanol=20:1) to give 397 mg of the desired compound (54.8%, pale yellow solid).

reactant | 3-trichloroacetyl-5-[N-tert-butoxycarbonyl-N-[3-(trifluoromethanesulfonamido)propan-1-yl]aminomethyl]imidazo[1,2-a]pyridine | 2.00 mmol, 1.16 g | ClC(C(=O)C1=CN=C2N1C(=CC=C2)CN(CCCNS(=O)(=O)C(F)(F)F)C(=O)OC(C)(C)C)(Cl)Cl | C19H22Cl3F3N4O5S
reactant | iodotrimethylsilane | 4.00 mmol, 0.57 ml | I[Si](C)(C)C | C3H9ISi
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
reactant | ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
solvent | chloroform | 25 ml | C(Cl)(Cl)Cl | CHCl3
product | 4,5-dihydro-4[3-(trifluoromethane-sulfonamido)propan-1-yl]-3H-1,4,8b-triaza-acenaphthylene-3-one | 397 mg, 54.8% | FC(S(=O)(=O)NCCCN1C(C2=CN=C3C=CC=C(C1)N32)=O)(F)F | C13H13F3N4O3S
